US09169246B2
Step 23.2. 7-[2-(3-fluoropyrrolidin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(3-fluoropyrrolidin-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(3-fluoropyrrolidin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (hydrochloride. H2O; yield 47%).

reactant | tetrahydro-2H-pyran-2-yl-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | O1C(CCCC1)N1N=CC=2C(N(C=3C=CC=CC3C21)CC(F)(F)F)=O | C17H16F3N3O2
reactant | 7-[2-(3-fluoropyrrolidin-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | FC1CN(CC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C26H27F4N5O2
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 7-[2-(3-fluoropyrrolidin-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 47% | Cl.FC1CN(CC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C21H17F4N5O.ClH/c22-13-5-7-29(10-13)19-14(2-1-6-26-19)12-3-4-15-17(8-12)30(11-21(23,24)25)20(31)16-9-27-28-18(15)16;/h1-4,6,8-9,13H,5,7,10-11H2,(H,27,28);1H
